US04326067
Under the same conditions as Example 13, 2.5 gm (25 mmoles) of 2-ethyl-2-oxazoline, 1.84 gm (25 mmoles) of t-butylamine and 49.4 mg (0.27 mmole) of zinc acetate are reacted to yield 64 percent N-(2-t-butylaminoethyl)propionamide.

reactant | 2-ethyl-2-oxazoline | 25 mmoles, 2.5 gm | C(C)C=1OCCN1 | C5H9NO
reactant | t-butylamine | 25 mmoles, 1.84 gm | C(C)(C)(C)N | C4H11N
catalyst | zinc acetate | 0.27 mmole, 49.4 mg | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | N-(2-t-butylaminoethyl)propionamide | 64 percent | C(C)(C)(C)NCCNC(CC)=O | C9H20N2O
